US05451601
A solution of 1 g of sodium borohydride in 200 cm3 of methanol is added dropwise over 40 minutes to a solution, cooled to +4° C. of 17.8 g of (3aR,7aR)-7,7-diphenyl-2-tert-butyloxycarbonyl-4-perhydroisoindolone in one liter of methanol, followed by 10 drops of caustic soda. The reaction mixture is stirred for 3 hours at +4° C. and then 2 cm3 of a 0.1N aqueous solution of hydrochloric acid are added and the mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is dissolved in 350 cm3 of dichloromethane, washed with 100 cm3 of water and then with 50 cm3 of a saturated solution of sodium chloride, dried over magnesium sulphate, and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from 40 cm3 of ethyl ether. The crystals obtained are drained and dried. 8.4 g of (3aR,4S,7aR)-7,7-diphenyl-2-tert-butyloxycarbonyl-4-perhydroisoindolol are obtained in the form of white crystals; melting point 190° C. The crystallization mother liquors are concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 4 cm, height 33 cm), eluting under a nitrogen pressure of 0.4 bar with a dichloromethane and methanol mixture (96/4 by volume) and collecting fractions of 20 cm3. Fractions 18 to 21 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). 1.88 g of (3aR,4R,7aR)-7,7-diphenyl-2-tert-butyloxycarbonyl-4-perhydroisoindolol are obtained in the form of a white meringue. Fractions 26 to 31 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from 5 cm3 of ethyl ether. 2.88 g of (3aR,4S,7aR)-7,7-diphenyl-tert-butyloxycarbonyl-4-perhydroisoindolol are additionally obtained in the form of white crystals; melting point 190° C.

reactant | sodium borohydride | 1 g | [BH4-].[Na+]
reactant | (3aR,7aR)-7,7-diphenyl-2-tert-butyloxycarbonyl-4-perhydroisoindolone | 17.8 g | C1(=CC=CC=C1)C1(CCC([C@H]2CN(C[C@@H]12)C(=O)OC(C)(C)C)=O)C1=CC=CC=C1 | C25H29NO3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 cm3 | CO | CH4O
solvent | methanol | one liter | CO | CH4O
catalyst | caustic soda | 10 drops | [OH-].[Na+]
product | (3aR,4S,7aR)-7,7-diphenyl-2-tert-butyloxycarbonyl-4-perhydroisoindolol | 8.4 g | C1(=CC=CC=C1)C1(CC[C@@H]([C@H]2CN(C[C@@H]12)C(=O)OC(C)(C)C)O)C1=CC=CC=C1 | C25H31NO3
